US04788206
As in Example 115, (2E,4Z)-5-(3-methoxyphenyl)-2,4-nonadienoic acid (7.37 g) and 4-nitrophenol (4.89 g) in 30 mL of dichloromethane was reacted with 1,3-dicyclohexylcarbodiimide (5.91 g). The mixture was stirred at room temperature for 3 days and the usual work up furnished 9.69 g of (2E,4Z)-5-(3-methoxyphenyl)-2,4-nonadienoic acid 4-nitrophenyl ester as an oil.

reactant | (2E,4Z)-5-(3-methoxyphenyl)-2,4-nonadienoic acid | 7.37 g | COC=1C=C(C=CC1)\C(=C/C=C/C(=O)O)\CCCC | C16H20O3
reactant | 4-nitrophenol | 4.89 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 5.91 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (2E,4Z)-5-(3-methoxyphenyl)-2,4-nonadienoic acid 4-nitrophenyl ester | 9.69 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(\CCCC)/C1=CC(=CC=C1)OC)=O | C22H23NO5
